US06395766B1
Step 2: 6,6-Dimethyl 3-ethyl-4-oxo-4,5,6,7-tetrahydro-1H-indole-2-carboxylic acid
A solution of ethyl 6,6-dimethyl-3-ethyl-4-oxo-4,5,6,7-tetrahydro-1H-indole-2-carboxylate (5.4 g, 0.02 mol) and KOH (2.9 g, 0.05 mol) in EtOH (25 mL) and water (7.5 mL) was heated at reflux for 6 h. The mixture was cooled to 60° C., and neutralized by the addition of acetic acid. Water (80 mL) was added and the cream precipitate collected by filtration. The precipitate was washed with EtOH and hexane then dried under vacuum at 50° C. The acid (4 g, 83%) was isolated as a cream solid, and used without further purification. mp>198° C. 1H NMR (360 MHz, d6-DMSO δ 1.00 (6H,s), 1.04 (3H,t,J=7.3 Hz), 2.22 (2H,s), 2.62 (2H,s), 2.98 (2H,q,J=7.3 Hz), 11.72 (1H, br s). C13H17NO3. O.4(H2O) requires: C, 64.39; H, 7.40; N, 5.73%. Found:C, 64.38, H, 7.30; N, 5.70%. MS(ES+) 236 (M+1).

reactant | ethyl 6,6-dimethyl-3-ethyl-4-oxo-4,5,6,7-tetrahydro-1H-indole-2-carboxylate | 0.02 mol, 5.4 g | CC1(CC(C=2C(=C(NC2C1)C(=O)OCC)CC)=O)C | C15H21NO3
reactant | KOH | 0.05 mol, 2.9 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | water | 7.5 mL | O | H2O
solvent | Water | 80 mL | O | H2O
product | 6,6-Dimethyl 3-ethyl-4-oxo-4,5,6,7-tetrahydro-1H-indole-2-carboxylic acid | 4 g, 83% | CC1(CC(C=2C(=C(NC2C1)C(=O)O)CC)=O)C | C13H17NO3
